US07772223B2
Tert-butyl 4-Cyano-4,4-Diphenylbutanoate
A suspension of diphenylacetonitrile (38.6 g, 200 mmol) in tert-butanol (200 ml) was warmed to 60° C. for 30 minutes. The resulting solution was cooled to 50° C. and a solution of potassium hydroxide (0.6 g, 10.69 mmol) in methanol (2 mL) was added. tert-Butyl acrylate (30 mL, 200 mmol) was then added dropwise and the mixture was stirred at 50° C. for 2 hours and at room temperature for 18 hours. Further potassium hydroxide (0.6 g, 10.69 mmol) was added and the mixture was re-warmed to 50° C. for 3 hours. The reaction mixture was then concentrated in vacuo and the residue was diluted with diethyl ether (300 mL), washed with water (200 mL), dried over sodium sulfate and concentrated in vacuo to afford the title compound as a white solid in 90% yield, 57.95 g.

reactant | diphenylacetonitrile | 200 mmol, 38.6 g | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1 | C14H11N
reactant | potassium hydroxide | 10.69 mmol, 0.6 g | [OH-].[K+]
reactant | tert-Butyl acrylate | 200 mmol, 30 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | potassium hydroxide | 10.69 mmol, 0.6 g | [OH-].[K+]
solvent | tert-butanol | 200 ml | C(C)(C)(C)O | C4H10O
solvent | methanol | 2 mL | CO | CH4O
product | Tert-butyl 4-Cyano-4,4-Diphenylbutanoate | 90% yield | C(#N)C(CCC(=O)OC(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H23NO2
